Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Incidental stroke
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ yo male with a recent diagnosis of dementia (?
Parkinsons Type) and depression, who was brought to the ER after
being informed that a stroke was noted on his outpatient MRI 
scan
earlier this morning.  

Patient was recently evaluated by Dr. ___ at ___
for cognitive decline.  Per Atrius documentation, and upon 
review
with the patient's wife and daughter, Mr. ___ has had
progressive decline in function over the past year, but more
prominently the past few months.  This was initially attributed
to a history heavy drinking, but with the notable worsening over
the past few months, he was referred for further evaluation. 
Family reports difficulty with directions, recalling details of
his children's lives, and overall decreased interaction.  They
were ultimately referred to Neurology when he was found to be
driving on the wrong side of the road last ___.  His wife
also reports slowing of his movements, particularly his gait.  
He
has had a few falls over the last year, most recently yesterday
in the shower.  It was unwitnessed but he likely hit his head,
though they do not think he lost consciousness.  His wife has
also noted R>L sided tremor. 

At his recent evaluation with Neurology he scored a ___ on his
MOCA, with impairments in visuospatial, executive functioning,
and memory.  He was felt to have cogwheel rigidity (R>L) and a
slow shuffling gait concerning for Parkinsons Disease.  DDx
include dementia secondary to EtOH abuse. As part of his workup
he was scheduled for an outpatient MRI Brain which he had today,
and was noted to have an acute infarct on the scan.  Though I
cannot find a read, it appears to be a small, acute L thalamic
infarct on my read.  

Family does not report any clear timeline for an event 
concerning
for stroke.  They say he woke up this morning and there were no
significant concerns.  He was able to do his exercises this
morning, including doing laps with leg raises around the house.
At one point this morning his daughter felt like his speech was
slightly garbled, but he was able to correct this when she asked
him to repeat himself.  His wife also notes that she helped 
dress
him today, which he usually does on his own, but she says she 
did
this because they were in a rush to get to the MRI. They do feel
that this afternoon he has seemed a little more "out of it" and
with more notable garbled speech than usual.  

At baseline, Mr. ___ feeds and dresses himself.  He does not 
do
many activities during the day; sometimes exercises but mostly
watches TV and naps.  He does not cook.  Showers himself and 
uses
the bathroom but occasionally has urine incontinence.  He is
ambulatory on his own, albeit slow, but uses a walker when he
goes out.  No longer drives.  Infrequently leaves the house. 
Does not speak very much spontaneously, but will respond with
short phrases when spoken to.  He has a poor appetite and has 
had
associated weight loss. Wife denies coughing/choking with
eating/drinking at baseline. At his Neurology visit earlier this
month, he was oriented to person and place but not date.   This
is a fairly steep decline from one year ago, when he was driving
30 minutes into ___ by himself to visit friends. 

Review of systems is difficult to perform as patient denies any
issues but does not speak spontaneously.  Family denies reports
of headache, vision changes, or dysphagia. Deny focal muscle
weakness.

On general review of systems, the patient has not been sick
recently or had fevers.  He does have a chronic cough, which is
not worse than usual.  No reports of chest pain or palpitations. 

Deny vomiting, diarrhea. 

 
Past Medical History:
Dementia (? ___ Type)
Prior EtOH Abuse
Depression
Cataract surgery 
Thrombocytopenia
Leukopenia
Lung nodule
Weight loss
Cholelithiasis 
 
Social History:
___
Family History:
Half sister with stroke in ___ (multiple comorbidities)
Half sister with HTN
Multiple children with HTN, DM, and EtOH abuse
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION
 Vitals: T: 97.8F P: ___-71 R: ___  BP: 112-114/57-71 SaO2:100%
 General: Tired but easily arousable, laying in bed. 
 HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted 
in
oropharynx
 Neck: Supple
 Pulmonary: Lungs CTA bilaterally without R/R/W
 Cardiac: RRR, nl. S1S2, no M/R/G noted
 Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
 Extremities: No ___ edema.
 Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented to person and "hospital", but 
not
to ___ or date.  States president is ___. States wife and
sister are present with him (actually wife and daughter), but
able to name them properly. Decreased attention; able to perform
___ forwards; unable to perform ___ forwards (gets to ___ and
loses track. He skips words at times, notably with repetition. 
Follows most simple commands. There were no paraphasic errors. 
Pt
was able to name both high and low frequency objects.  No
spontaneous speech, but speaks when spoken to. Calculates 9
quarters. Difficulty with reading. Speech is dysarthric. Pt was
able to register 3 objects but recall ___ at 5 minutes. There 
was
no evidence of neglect.

-Cranial Nerves:
 II, III, IV, VI:  PERRL 2 to 1 mm. Impaired upgaze, but
otherwise EOMs appear full without nystagmus. Hypometric
saccades. BTT bilaterally. 
 VII: No facial droop, facial musculature symmetric. Decreased
facial movements.
 IX, X: Palate elevates symmetrically.
 XI: ___ strength in SCM bilaterally.
 XII: Tongue protrudes in midline.

-Motor: Increased tone in RUE. Subtle rest tremor in RUE > LUE.  

  No asterixis noted.
   Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
 L  5    ___   ___  5   5    5  5     5     5   5
 R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch, pinprick throughout. No
extinction to DSS.

-DTRs:
   Bi Tri ___ Pat Ach
 L  2  2    2    3   2
 R  3  3    3    4   3
 Plantar response was flexor bilaterally.

-Coordination: No intention tremor. Bradykinetic. 

-Gait: Patient refused.

==========================================
DISCHARGE PHYSICAL EXAM: 
Vitals: Tm/c: 98.5/97.6 BP: 102-130/62-78 HR: ___ RR: ___ 
SaO2:
99-100% RA
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM
Pulmonary: Breathing comfortably, no tachypnea nor increased WOB
Cardiac: skin warm, well-perfused. 
Abdomen: soft, ND
Extremities: Symmetric, no edema. 

Neurologic:

-Mental Status: Alert, oriented to self, ___', 
but not
which, not oriented to year.  He is inattentive, able to name 
___, but not other attentional tasks. Decreased spontaneous 
speech output. Able to follow simple appendicular commands. 
Perseverative. 

-Cranial Nerves: PERRL 1.0-0.75.  EOMI with limited upgaze,
saccadic intrusions, no nystagmus. Hypomimia.  Face symmetric at
rest and with activation. Hearing intact to conversation. 
Moderate dysarthria

-Motor: R>LUE resting tremor. Tone increased R>L. All four
extremities at least antigravity, and inconsistently provide at
least some resistance. 

-Sensory: reacts to tickle throughout.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF bilaterally.

 
Pertinent Results:
___ 12:20PM BLOOD WBC-3.6* RBC-3.63* Hgb-11.7*# Hct-36.3* 
MCV-100*# MCH-32.2*# MCHC-32.2 RDW-12.8 RDWSD-47.6* Plt ___
___ 05:38AM BLOOD WBC-3.8* RBC-3.56* Hgb-11.6* Hct-35.0* 
MCV-98 MCH-32.6* MCHC-33.1 RDW-12.6 RDWSD-45.6 Plt ___
___ 12:20PM BLOOD ___ PTT-37.1* ___
___ 12:20PM BLOOD Glucose-91 UreaN-12 Creat-1.0 Na-137 
K-3.8 Cl-100 HCO3-24 AnGap-17
___ 05:38AM BLOOD Glucose-81 UreaN-15 Creat-0.7 Na-136 
K-4.6 Cl-100 HCO3-23 AnGap-18
___ 12:20PM BLOOD ALT-13 AST-18 AlkPhos-97 TotBili-0.5
___ 06:22AM BLOOD ALT-10 AST-16 AlkPhos-88 TotBili-0.3
___ 06:22AM BLOOD %HbA1c-5.6 eAG-114
___ 12:20PM BLOOD Triglyc-64 HDL-36 CHOL/HD-4.8 LDLcalc-123
___ 06:22AM BLOOD TSH-2.0
___ 06:22AM BLOOD Free T4-1.1
___ 12:20PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 12:30PM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-4* pH-6.0 Leuks-NEG
___ 12:30PM URINE RBC-3* WBC-2 Bacteri-FEW Yeast-NONE 
Epi-<1
___ 12:30PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

Imaging: 
___ CTA head/neck: 
1. Left subinsular cortex hypodensities, which may represent
acute infarction. Recommend correlation with recent outside head
MRI for additional findings. 
2. No evidence of intracranial hemorrhage. 
3. Nonspecific white matter hypodensities, which may be sequela
of chronic small vessel microangiopathy. 
4. Vascular calcifications with mild to moderate narrowing of 
the
cavernous bilateral ICA.  Atherosclerotic disease and
congenitally small right vertebral artery.  Otherwise, no
evidence of stenosis, occlusion, or aneurysm formation of the
intracranial vasculature. 
5. Calcified and noncalcified plaque at the bilateral internal
carotid bifurcations, without stenosis by NASCET criteria. 
6. Bilateral pulmonary nodules, measuring up to 0.5 cm ; please
see below for ___ recommendation. 

___ Echo: Suboptimal image quality. Normal biventricular cavity
sizes with preserved global biventricular systolic function. 
Mild
mitral regurgitation with normal valve morphology. No definite
structural cardiac source of embolism identified. Compared with
the prior study (images reviewed) of ___, the severity of
mitral regurgitation may be slightly increased, but due to
suboptimal technical/image quality, there may actually be no
change. 
 
Brief Hospital Course:
Mr. ___ was admitted after incidental acute L thalamic stroke 
was noted on outpt MRI, which was obtained as part of a dementia 
workup. He had no signs or symptoms referable to this lesion. 
Given distribution, etiology was favored to be small vessel 
disease. He was started on ASA and atorvastatin, and was urged 
to stop smoking. Echo was performed, and was unremarkable. 
Family reported occasional choking episodes as outpt, and he was 
evaluated by ___, who started him on a dysphagia diet. 

24 hour events prior to discharge: 
- No overnight events

=================================
Transitional issues
[ ] continue to reevaluate diet

================================
AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed  () No
2. DVT Prophylaxis administered? (x) Yes - () No
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No
4. LDL documented? (x) Yes (LDL = 123) - () No
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 100) (x) Yes - () No [if 
LDL >100, reason not given: ]
6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - (x) unable to participate]
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No
9. Discharged on statin therapy? (x) Yes - () No [if LDL >100, 
reason not given: ]
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - (x) N/A
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Multivitamins W/minerals 1 TAB PO DAILY 
2. Thiamine 100 mg PO DAILY 
3. FoLIC Acid 1 mg PO DAILY 
4. Vitamin D 1000 UNIT PO DAILY 
5. FLUoxetine 10 mg PO DAILY 
6. Donepezil 5 mg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Atorvastatin 40 mg PO QPM  
3.  Donepezil 5 mg PO DAILY  
4.  FLUoxetine 10 mg PO DAILY  
5.  FoLIC Acid 1 mg PO DAILY  
6.  Multivitamins W/minerals 1 TAB PO DAILY  
7.  Thiamine 100 mg PO DAILY  
8.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Acute ischemic stroke

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,
You were hospitalized after a small acute stroke was seen on 
your MRI. You had no symptoms of stroke. ACUTE ISCHEMIC STROKE 
is a condition where a blood vessel providing oxygen and 
nutrients to the brain is blocked by a clot. The brain is the 
part of your body that controls and directs all the other parts 
of your body, so damage to the brain from being deprived of its 
blood supply can result in a variety of symptoms.
Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:
high cholesterol
Age

We are changing your medications, please take your medications 
as prescribed.

Please follow up with Neurology and your primary care physician 
as listed below.

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team

 
Followup Instructions:
___